US07851475B2
Preparation of [5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetic acid ethyl ester
Under argon, a mixture of [5-bromo-2-nitro-phenyl]acetic acid ethyl ester (2.02 g, 7.00 mmol) and 1-methyl-piperazine (1.40 g, 14.0 mmol) is heated at 65° C. for 24 h. The reaction mixture is partitioned between CH2Cl2 (25 mL) and H2O (25 mL), and the aqueous layer is extracted with CH2Cl2 (2×25 mL). The combined organic layers are washed with brine (25 mL), dried over Na2SO4, and concentrated at reduced pressure. The crude product is purified by FCC(CH2Cl2/MeOH 97.5:2.5) to afford the title compound as a yellow oil. ES+-MS: 308 [M+H]+.

reactant | [5-bromo-2-nitro-phenyl]acetic acid ethyl ester | 7.00 mmol, 2.02 g | C(C)OC(CC1=C(C=CC(=C1)Br)[N+](=O)[O-])=O | C10H10BrNO4
reactant | 1-methyl-piperazine | 14.0 mmol, 1.40 g | CN1CCNCC1 | C5H12N2
product | [5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C15H21N3O4
